US04147552
Preparation of 3-benzoyl-5,7-dimethoxycoumarin.
A mixture of 18.2 g 4,6-dimethoxysalicylaldehyde, 20.0 g ethyl benzoylacetate, 20 ml acetonitrile and 30 drops piperidine was heated gently on a hot plate for 45 minutes. After cooling the product was collected and recrystallized twice from acetonitrile and once from benzene containing a small amount of acetonitrile. m.p. 178° C.-179° C.

reactant | 4,6-dimethoxysalicylaldehyde | 18.2 g | COC=1C=C(C(C=O)=C(C1)OC)O | C9H10O4
reactant | ethyl benzoylacetate | 20.0 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
catalyst | piperidine | 30 drops | N1CCCCC1 | C5H11N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-benzoyl-5,7-dimethoxycoumarin | C(C1=CC=CC=C1)(=O)C=1C(OC2=CC(=CC(=C2C1)OC)OC)=O | C18H14O5
